US07985751B2
1-(4-(Benzyloxy)-3-methoxyphenethyl)-4-(3-phenylpropyl)piperazine is hydrogenated in 10 mL methanol with 10% Pd/C. The resultant product is then purified by column chromatography, eluting with dichloromethane-methanol (9:1) to afford 95 mg of 1-[2-(3-methoxy-4-hydroxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine.

reactant | 1-(4-(Benzyloxy)-3-methoxyphenethyl)-4-(3-phenylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(CCN2CCN(CC2)CCCC2=CC=CC=C2)C=C1)OC | C29H36N2O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-[2-(3-methoxy-4-hydroxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine | 95 mg | COC=1C=C(C=CC1O)CCN1CCN(CC1)CCCC1=CC=CC=C1 | C22H30N2O2
